US05302601
Methyl 2-methoxy-4-methylbenzoate:
Methyl iodide (123 mL, 1.95 mole) was added to a stirred suspension of potassium carbonate (360.0 g, 2.60 mole) in a solution of 2-hydroxy-4-methylbenzoic acid (100.0 g, 0.651 mole) in dimethylformamide (1500 mL) at room temperature. After stirring overnight, the reaction mixture was poured onto ice water (1000 mL) and the aqueous mixture extracted several times with ethyl acetate. The organic layers were combined, dried (Na2SO4), and stripped in vacuo to give a brown oil. After passage over silica gel using 20% ethyl acetate/hexane as the eluent, there was obtained 116.7 g of the title compound as an oil which was a single spot on thin layer chromatography (Rf 0.35, 20% ethyl acetate/hexane). NMR (CDCl3, 300 MHz, ppm): 2.4 (s, 3H); 3.87 (s, 3H); 3.9 (s, 3H); 6.78 (s, 1H); 6.8 (d, 1 =J Hz, 1 h); 7.72 (d, J= 7 Hz, 1H).

reactant | Methyl iodide | 1.95 mole, 123 mL | CI | CH3I
reactant | potassium carbonate | 2.60 mole, 360.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxy-4-methylbenzoic acid | 0.651 mole, 100.0 g | OC1=C(C(=O)O)C=CC(=C1)C | C8H8O3
reactant | dimethylformamide | 1500 mL | CN(C=O)C | C3H7NO
product | Methyl 2-methoxy-4-methylbenzoate | 116.7 g | COC1=C(C(=O)OC)C=CC(=C1)C | C10H12O3
